US08008302B2
Step b) Formation of (2R,3S)-2-hydroxy-3-methylsuccinic acid
Diisopropyl (2R,3S)-2-hydroxy-3-methylsuccinate (9.75 g; 42.0 mmol; 1.00 eq.) was taken in THF (146 mL), cooled to 0° C. and was treated with KOH (14.1 g, 152 mmol) in water (49 mL). The resulting mixture was stirred at RT for 48 h. THF was removed and the residue was taken in water. The aqueous layer was washed with ether (100 mL) and was acidified with an aqueous solution of HCl (1.5 N), then was extracted with EtOAc (continuous extraction during 20 hours). The organic phase was dried over Na2SO4 and then concentrated to give the title product (mixture of diastereoisomers) as a pale yellow oil (2.49 g).

reactant | Diisopropyl (2R,3S)-2-hydroxy-3-methylsuccinate | 42.0 mmol, 9.75 g, 1.00 eq. | O[C@@H](C(=O)OC(C)C)[C@@H](C(=O)OC(C)C)C | C11H20O5
reactant | KOH | 152 mmol, 14.1 g | [OH-].[K+]
solvent | THF | 146 mL | C1CCOC1 | C4H8O
solvent | water | 49 mL | O | H2O
product | (2R,3S)-2-hydroxy-3-methylsuccinic acid | 2.49 g | O[C@@H](C(=O)O)[C@@H](C(=O)O)C | C5H8O5
